US08183240B2
A solution of 3-morpholin-4-yl-3-thioxopropanenitrile (0.150 g, 0.88 mmol) in anhydrous ACN (1.2 mL) was cooled to 0° C. To this cooled solution was added of 2,4-dichlorobenzoyl chloride (0.149 mL, 1.06 mmol) and DIPEA (0.161 mL, 0.93 mmol). The mixture was allowed to stir at rt under nitrogen for 15 min before ethyl iodoacetate (0.110 mL, 0.93 mmol) and DIPEA (0.161 mL, 0.93 mmol) were added. The reaction mixture was subjected to MWI at 140° C. for 10 min. The mixture was allowed to cool and was concentrated. The residue was purified by column chromatography to give ethyl 4-cyano-3-(2,4-dichlorophenyl)-5-morpholin-4-ylthiophene-2-carboxylate (0.1 g, 28%). LCMS: (AA) ES+ 411. 1H NMR (400 MHz, d1-chloroform) δ: 7.49 (d, 1H), 7.33 (dd, 1H), 7.20 (d, 1H), 4.16-4.08 (m, 2H), 3.89-3.85 (m, 4H), 3.66-3.63 (m, 4H) and 1.12 (t, 3H).

reactant | 3-morpholin-4-yl-3-thioxopropanenitrile | 0.88 mmol, 0.150 g | N1(CCOCC1)C(CC#N)=S | C7H10N2OS
reactant | 2,4-dichlorobenzoyl chloride | 1.06 mmol, 0.149 mL | ClC1=C(C(=O)Cl)C=CC(=C1)Cl | C7H3Cl3O
reactant | DIPEA | 0.93 mmol, 0.161 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | ethyl iodoacetate | 0.93 mmol, 0.110 mL | ICC(=O)OCC | C4H7IO2
reactant | DIPEA | 0.93 mmol, 0.161 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | ACN | 1.2 mL | C(C)#N | C2H3N
product | ethyl 4-cyano-3-(2,4-dichlorophenyl)-5-morpholin-4-ylthiophene-2-carboxylate | 0.1 g, 28% | C(#N)C=1C(=C(SC1N1CCOCC1)C(=O)OCC)C1=C(C=C(C=C1)Cl)Cl | C18H16Cl2N2O3S
